US03943143
Preparation of Zinc Bis (2,2-dimethyloxazolidine-3-carbodithioate) ##SPC6##
While cooling and stirring, 20 g. (0.20 mole) of 2,2-dimethyloxazolidine (preparation described by E. Bergmann et. al., J. Am. Chem. Soc. 75, 358 (1953)) was added to a solution of 15.2 g. (0.20 mole) carbon disulfide in 150 g. pyridine. To the stirring solution was added 18.3 g. (0.10 mole) of anhydrous zinc acetate at 25°-30°C. After standing overnight at room temperature, filtration gave 15.2 g. of the crude product; vacuum-concentration of the filtrate and ethanol-dilution of the residue gave an additional 10.4 g. After combining and vacuum-drying of the crude product at 100°C there was obtained 17.8 g. of the desired carbodithioate melting at 188°- 190°C (decomp.). A small sample, dissolved in hot chloroform and precipitated by hexane (m. 192°- 3°C decomp.) had the following analysis: Found: C, 34.22; H, 4.47; N, 6.84; Zn, 15.20%. Calcd for C12H20N2O2S 4 Zn: C, 34.50; H, 4.79; N, 6.71; Zn, 15.67%.

reactant | 2,2-dimethyloxazolidine | 0.20 mole | CC1(OCCN1)C | C5H11NO
reactant | carbon disulfide | 0.20 mole | C(=S)=S | CS2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | zinc acetate | 0.10 mole | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
product | Zinc Bis (2,2-dimethyloxazolidine-3-carbodithioate) | CC1(OCCN1C(=S)[S-])C.CC1(OCCN1C(=S)[S-])C.[Zn+2] | InChI=1S/2C6H11NOS2.Zn/c2*1-6(2)7(5(9)10)3-4-8-6;/h2*3-4H2,1-2H3,(H,9,10);/q;;+2/p-2
